US04612376
To a solution of 6-(3,4-dimethoxyphenyl)-3-methyl-2,4(1H,3H)-pyrimidinedione (1.0 g) in N,N-dimethylformamide (10 ml) was added sodium hydride (60% in oil, 0.17 g). The mixture was heated at 60° C. with stirring for 20 minutes and cooled to ambient temperature. To the mixture was added ethyl iodide (5 ml) with stirring, which was continued at ambient temperature for 3.5 hours. To the reaction mixture was added water, and extracted with ethyl acetate. The organic extract was washed with water, dried over magnesium sulfate and evaporated under reduced pressure. The residue was triturated with a mixture of ethyl acetate and diisopropyl ether and the resulting precipitates were collected by filtration to give 6-(3,4-dimethoxyphenyl)-2-ethoxy-3-methyl-4(3H)-pyrimidinone (0.18 g) as by-product.

reactant | 6-(3,4-dimethoxyphenyl)-3-methyl-2,4(1H,3H)-pyrimidinedione | 1.0 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1)=O)C)=O | C13H14N2O4
reactant | sodium hydride | 0.17 g | [H-].[Na+]
reactant | ethyl iodide | 5 ml | C(C)I | C2H5I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-(3,4-dimethoxyphenyl)-2-ethoxy-3-methyl-4(3H)-pyrimidinone | 0.18 g | COC=1C=C(C=CC1OC)C1=CC(N(C(=N1)OCC)C)=O | C15H18N2O4
